US05451607
A solution of the ethyl 4-chlorophenyl-α-methyleneacetate (4.2 g), m-chlorothiophenol (2.9 g) and sodium ethoxide (0.05 g) in ethanol (20 ml) was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure, followed by addition of water (150 ml) to the residue, and the mixture was extracted with ether (150 ml). The extract was washed two times with 15% aqueous sodium hydroxide, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the resulting residue were added 88% formic acid (20 ml) and methanesulfonic acid (2.1 ml), followed by heating at reflux for 8 hours. After cooling to room temperature, the mixture was poured into water (100 ml) and extracted with dichloromethane (150 ml). The aqueous layer was further washed with dichloromethane (50 ml), and the combined organic layer was dried over anhydrous magnesium sulfate and concentrated. The resulting residue was subjected to chromatography on silica gel to give 4-chlorophenyl-α-[(3-chlorophenyl)thiomethyl]-acetic acid (yield, 5.3 g), nD23.6, 1.5627

reactant | ethyl 4-chlorophenyl-α-methyleneacetate | 4.2 g | ClC1=CC=C(C=C1)C(C(=O)OCC)=C | C11H11ClO2
reactant | m-chlorothiophenol | 2.9 g | ClC=1C=C(C=CC1)S | C6H5ClS
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | sodium ethoxide | 0.05 g | [O-]CC.[Na+]
product | 4-chlorophenyl-α-[(3-chlorophenyl)thiomethyl]-acetic acid | 5.3 g | ClC1=CC=C(C=C1)C(C(=O)O)CSC1=CC(=CC=C1)Cl | C15H12Cl2O2S
